### PR TITLE
[Merged by Bors] - feat(Counterexamples): disproof of the Aharoni–Korman conjecture

### PR DESCRIPTION
**Pull request by b-mehta**
Disprove the Aharoni–Korman conjecture by constructing and verifying Hollom's counterexample. Additionally show this counterexample is countable and scattered.

Zulip thread: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Aharoni.E2.80.93Korman.20conjecture.20formally.20disproved

---

- [x] depends on: #20751
- [x] depends on: #20752
- [x] depends on: #20753 
- [x] depends on: #20754 
- [x] depends on: #20756
- [x] depends on: #20757
- [x] depends on: #20758
- [x] depends on: #20759

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Counterexamples/AharoniKorman.lean [hunk 1]
```diff
@@ -0,0 +1,325 @@
...
+-/
+
+import Mathlib.Algebra.Order.Star.Basic
+import Mathlib.Data.Nat.Cast.Order.Ring
+import Mathlib.Order.Chain
+import Mathlib.Order.WellFoundedSet
+import Mathlib.Data.Setoid.Partition
+
+/-!
+# Disproof of the Aharoni-Korman conjecture
```
Comment (trivial1711) [inline Counterexamples/AharoniKorman.lean:14]: I am aware that this suggestion is more likely to make you think "wow, that Mitchell sure is an insufferable pedant" than "thanks, Mitchell!". I hope you can forgive me.
```suggestion
# Disproof of the Aharoni–Korman conjecture
```

**Comment by loefflerd** [comment]
Is this ready for review? I guess not, as there is a section marked "to_move", and it's way over the usual length limit for a single PR; but it's appearing in the review queue.

If my guess is correct, could you please mark it as WIP?

File: Counterexamples/AharoniKorman.lean [hunk 2]
```diff
@@ -0,0 +1,1188 @@
...
+antichain.
+Provided `C` is a chain, the existence of a spinal map is equivalent to the fact that `C` is a
+spine.
+-/
+structure SpinalMap (C : Set α) where
+  /-- The underlying function of a spinal map. -/
+  (toFun : α → α)
+  (mem' : ∀ x, toFun x ∈ C)
+  (eq_self_of_mem' : ∀ x ∈ C, toFun x = x)
+  (fibre_antichain' : ∀ x, IsAntichain (· ≤ ·) (toFun ⁻¹' {x}))
```
Comment (eric-wieser) [inline Counterexamples/AharoniKorman.lean:489]: nit: parens here are a lean3ism

File: Counterexamples/AharoniKorman.lean [hunk 3]
```diff
@@ -0,0 +1,1188 @@
...
+theorem no_spinalMap (hC : IsChain (· ≤ ·) C) (f : SpinalMap C) : False := by
+  obtain ⟨n, hn, hn'⟩ : ∃ n, n ≠ 0 ∧ (C ∩ Hollom.level n).Finite := by
+    obtain ⟨n, hn, hn'⟩ := Filter.frequently_atTop.1 (Hollom.exists_finite_intersection hC) 1
+    exact ⟨n, by omega, hn'⟩
+  exact Hollom.not_S_mapsTo_previous hC hn' hn (Hollom.S_mapsTo_previous f hC hn)
+
+end Hollom
+
+/--
+The Aharoni–Korman conjecture (sometimes called the fishbone conjecture) says that every partial
```
Comment (eric-wieser) [inline Counterexamples/AharoniKorman.lean:1168]: Should we have `def AharoniKorman : Prop :=` to make this clearer?

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:1168]: I'm not really sure I see the benefit, but also there's not much harm. It is really that much cleaner to abstract out the contents of the `¬`?

**Comment by kbuzzard** [comment]
I propose merging this in a couple of days on the following basis: several of us looked at the statement of the theorem proved here, and compared it with the statement of the theorem in the ArXiv paper, and agreed that indeed this is a correct formalization of the counterexample. The file is however a bit slow and we did not really look at the actual code, on the basis that code in Counterexamples is usually not held to such high standards as code in Mathlib.

File: Counterexamples/AharoniKorman.lean [hunk 4]
```diff
@@ -0,0 +1,1242 @@
...
+The ordering on ℕ³ which is used to define Hollom's example P₅
+-/
+@[mk_iff]
+inductive HollomOrder : ℕ × ℕ × ℕ → ℕ × ℕ × ℕ → Prop
+  | twice {x y n u v m : ℕ} : m + 2 ≤ n → HollomOrder (x, y, n) (u, v, m)
+  | within {x y u v m : ℕ} : x ≤ u → y ≤ v → HollomOrder (x, y, m) (u, v, m)
+  | next_min {x y u v m : ℕ} : min x y + 1 ≤ min u v → HollomOrder (x, y, m + 1) (u, v, m)
+  | next_add {x y u v m : ℕ} : x + y ≤ 2 * (u + v) → HollomOrder (x, y, m + 1) (u, v, m)
+
+instance : PartialOrder Hollom where
```
Comment (kbuzzard) [inline Counterexamples/AharoniKorman.lean:124]: This is quite slow (profiling said it took 6 seconds and it's not immediately clear what is costing so much). Is there any chance of speeding it up?

**Comment by madvorak** [comment]
What a beautiful achievement in near-real-time formalization!

File: Counterexamples/AharoniKorman.lean (hunk 4 above)
Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:124]: There's not really much going on in this, it's just easy calls to omega and the equation compiler checking I've covered all the cases. As far as I can tell, the only speedups would be to improve one of those two, which I'm not good enough to do!

File: Counterexamples/AharoniKorman.lean [hunk 5]
```diff
@@ -0,0 +1,1242 @@
...
+  replace hright : f h(x, y + 1, n) ∈ I \ B.image f := by simpa [mem_sdiff, hright, I] using this.2
+  -- but this set has exactly one element, so our two elements must be equal.
+  exact Finset.card_le_one.1 card_eq.le _ hleft _ hright
+
+/--
+A simple helper lemma to prove `apply_eq_of_line_eq`.
+Here we show the special case where the two points are `(x + k, y, n)` and `(x, y + k, n)` by
+induction on `k` with `apply_eq_of_line_eq_step`.
+-/
+lemma apply_eq_of_line_eq_aux (f : SpinalMap C) {n xl yl xh yh : ℕ}
```
[the remark this answers is not in the document]
Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:753]: I think the subscript l is hard to read and looks too much like a 1. But I'm reasonably happy either way - maybe this one should just be private!

[the remark this answers is not in the document]
Comment (madvorak) [reply Counterexamples/AharoniKorman.lean:753]: In general, I am a fan of private lemmas, but I am clearly a minority here.

File: Counterexamples/AharoniKorman.lean (hunk 4 above)
Comment (riccardobrasca) [reply Counterexamples/AharoniKorman.lean:124]: What happens replacing all the `omega` by `sorry`?

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:124]: Then it takes under a second, but note that making them sorry turns off the final step (which looks like the slowest) of the kernel checking that the elaborated term is type correct. I can try to replace them all by explicit proofs, but I expect this won't be faster.

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:124]: Oh. For me, linting takes 12 seconds.

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:124]: Printing out more detail from the profiler tells me that each omega call takes less 100ms, and the majority of them take less than 10ms. So I don't think omega is the culprit here.

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:124]: The unused variables linter is taking almost all of the 12 seconds for me. It also didn't spot the unused variable in the `le_refl` part...

Comment (riccardobrasca) [reply Counterexamples/AharoniKorman.lean:124]: Proving
```lean
lemma HollomOrder.trans (x y z : Hollom) (h₁ : HollomOrder x y) (h₂ : HollomOrder y z) :
    HollomOrder x z :=
  match x, y, z, h₁, h₂ with
  | _, _, _, .twice _, .twice _ => .twice (by omega)
  | _, _, _, .twice _, .within _ _ => .twice (by omega)
  | _, _, _, .twice _, .next_min _ => .twice (by omega)
  | _, _, _, .twice _, .next_add _ => .twice (by omega)
  | _, _, _, .within _ _, .twice _ => .twice (by omega)
  | _, _, _, .within _ _, .within _ _ => .within (by omega) (by omega)
  | _, _, _, .within _ _, .next_min _ => .next_min (by omega)
  | _, _, _, .within _ _, .next_add _ => .next_add (by omega)
  | _, _, _, .next_min _, .twice _ => .twice (by omega)
  | _, _, _, .next_min _, .within _ _ => .next_min (by omega)
  | _, _, _, .next_min _, .next_min _ => .twice (by omega)
  | _, _, _, .next_min _, .next_add _ => .twice (by omega)
  | _, _, _, .next_add _, .twice _ => .twice (by omega)
  | _, _, _, .next_add _, .within _ _ => .next_add (by omega)
  | _, _, _, .next_add _, .next_min _ => .twice (by omega)
  | _, _, _, .next_add _, .next_add _ => .twice (by omega)
```
before defining the instance seems much faster on my computer.

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:124]: Yes, but `antisymm` is the problem here, I believe this just shifts the problem to the proof of antisymm being really slow.

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:124]: Oh, I misunderstood you, that's also way faster for me! Very strange...

Comment (riccardobrasca) [reply Counterexamples/AharoniKorman.lean:124]: Are you sure? I am going to dinner so I don't have time to check, but extracting transitivity seems to make the yellow bar really faster.

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean]: I have made this change, thanks!

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean]: I think our messages crossed each other. You're absolutely correct, and I've amended.

Comment (riccardobrasca) [reply Counterexamples/AharoniKorman.lean]: @kbuzzard are you happy with the new version?

File: Counterexamples/AharoniKorman.lean [hunk 6]
```diff
@@ -0,0 +1,1249 @@
...
+* But as `f` maps each element of `S \ (C ∩ level n)` to `level (n - 1) ∪ level n ∪ level (n + 1)`,
+  we have a contradiction (`no_spinalMap`), and therefore show that no spinal map exists.
+-/
+
+attribute [aesop norm 10 tactic] Lean.Elab.Tactic.Omega.omegaDefault
+attribute [aesop 2 simp] Set.subset_def Finset.subset_iff
+
+/-- A type synonym on ℕ³ on which we will construct Hollom's partial order P_5. -/
+def Hollom : Type := ℕ × ℕ × ℕ
+  deriving DecidableEq
```
Comment (eric-wieser) [inline Counterexamples/AharoniKorman.lean:79]: How do you feel about making this a one-field structure? I suspect that could be the cause of the performance issues. I can push a fix if you like.

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean:79]: I find it hard to believe that is the cause, but if it is then go right ahead! I believe I avoided defeq abuse pretty consistently, except for perhaps in the first ~150 lines, so hopefully this isn't too tricky to do.

Comment (eric-wieser) [reply Counterexamples/AharoniKorman.lean]: Pushed the commit, but it wasn't the cause of the `trans` slowness

Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean]: The congr 3 <;> omega is a nice spot though!

File: Counterexamples/AharoniKorman.lean [hunk 7]
```diff
@@ -0,0 +1,1254 @@
...
+  /--
+  The forward equivalence between ℕ³ and the underlying set in Hollom's partial order.
+  Note that this equivalence does not respect the partial order relation.
+  -/
+  toHollom ::
+  /--
+  The backward equivalence between ℕ³ and the underlying set in Hollom's partial order.
+  Note that this equivalence does not respect the partial order relation.
+  -/
+  ofHollom : ℕ × ℕ × ℕ
```
Comment (madvorak) [inline Counterexamples/AharoniKorman.lean:89]: I really don't understand what is going on here, but could it have 3 fields instead?

**Comment by riccardobrasca** [comment]
`apply_eq_of_line_eq_step` also seems a little slow. Maybe avoiding `Fintype` and using `Finite` can help?

File: Counterexamples/AharoniKorman.lean [hunk 8]
```diff
@@ -0,0 +1,1254 @@
+/-
+Copyright (c) 2024 Bhavik Mehta. All rights reserved.
```
Comment (riccardobrasca) [inline Counterexamples/AharoniKorman.lean:2]:
```suggestion
Copyright (c) 2025 Bhavik Mehta. All rights reserved.
```

File: Counterexamples/AharoniKorman.lean (hunk 7 above)
Comment (riccardobrasca) [reply Counterexamples/AharoniKorman.lean:89]:
```lean
structure Foo where
  bar : Nat
```
defines a structure given by one field (a natural number), so if you have `N : Foo` then `N.bar` is a number. Here `Hollom` is given by a triple of natural numbers. In the other direction, if you have a natural number `n` you can of course build a term of type `Foo`, and the constructor is called `Foo.mk` by defaul. In the `Hollom` example it would be called `Hollom.mk`, and the syntax `toHollom ::` just changes the name to `Hollom.toHollom`.

File: Counterexamples/AharoniKorman.lean (hunk 6 above)
Comment (eric-wieser) [reply Counterexamples/AharoniKorman.lean]: (If you feel strongly, perhaps revert the structure changes but keep the lemmas added to avoid defeq abuse?)

File: Counterexamples/AharoniKorman.lean (hunk 8 above)
Comment (eric-wieser) [reply Counterexamples/AharoniKorman.lean:2]: Bhavik claimed copyright last year (this PR is from december), so I think it was correct as is.

File: Counterexamples/AharoniKorman.lean (hunk 7 above)
Comment (eric-wieser) [reply Counterexamples/AharoniKorman.lean:89]: Three fields would probably be more work, because then you have no `Prod` lemmas available.

File: Counterexamples/AharoniKorman.lean (hunk 6 above)
Comment (b-mehta) [reply Counterexamples/AharoniKorman.lean]: No strong feeling, I'm happy with this.

File: Counterexamples/AharoniKorman.lean [hunk 9]
```diff
@@ -0,0 +1,1254 @@
...
+/--
+Construction of the set `R`, which has the following key properties:
+* It is a subset of `level n`.
+* Each of its elements is comparable to all of `C ∩ level n`.
+* There exists an `a` such that `{(x, y, n) | x ≥ a ∧ y ≥ a} ⊆ R`.
+-/
+def R (n : ℕ) (C : Set Hollom) : Set Hollom := {x ∈ level n | ∀ y ∈ C ∩ level n, x ≤ y ∨ y ≤ x}
+
+variable {n : ℕ}
+lemma R_subset_level : R n C ⊆ level n := Set.sep_subset (level n) _
```
Comment (riccardobrasca) [inline Counterexamples/AharoniKorman.lean:817]:
```suggestion
variable {n : ℕ}

lemma R_subset_level : R n C ⊆ level n := Set.sep_subset (level n) _
```

File: Counterexamples/AharoniKorman.lean [hunk 10]
```diff
@@ -0,0 +1,1255 @@
...
+# Disproof of the Aharoni–Korman conjecture
+
+The Aharoni–Korman conjecture (sometimes called the fishbone conjecture) says that every partial
+order satisfies at least one of the following:
+- It contains an infinite antichain
+- It contains a chain C, together with a partition into antichains such that every part meets C.
+
+In November 2024, Hollom disproved this conjecture. In this file, we construct Hollom's
+counterexample P_5 and show it satisfies neither of the above, and thus disprove the conjecture.
+See https://arxiv.org/abs/2411.16844 for further details.
```
Comment (eric-wieser) [inline Counterexamples/AharoniKorman.lean:27]: nit: consider adding to `references.bib`

**Comment by riccardobrasca** [comment]
@b-mehta can you add the reference to `references.bib` as Eric suggested? The unused variable linter problem is going to be solved/improved so I think this is ready to go.

bors d+

**Comment by riccardobrasca** [comment]
@b-mehta I think you forgot this :) (and we want it in mathlib!). Thanks!

**Comment by b-mehta** [comment]
I did forget, thank you for the reminder!

**Comment by b-mehta** [comment]
Thank you all for the helpful reviews!

bors merge

File: Counterexamples/AharoniKorman.lean [hunk 11]
```diff
@@ -0,0 +1,1255 @@
...
+        omega
+      have h0j : h(x0 n C, y0 n C, n + 1) ≤ j := hj'.trans' (by simp [ha, hb])
+      have : line h(a, b, n + 1) = line h(a + b - y0 n C, y0 n C, n + 1) := by simp; omega
+      have := apply_eq_of_line_eq f hC ⟨x0_y0_mem h.nonempty, by simp⟩ hjCn ‹_› this
+        (x0_y0_min hC hp.1) (by simp; omega) hj' hj
+      have : f h(x, y, n) = f h(a + b - y0 n C, y0 n C, n + 1) := by
+        rw [← this, ← hfp, f.eq_self_of_mem hp.1]
+      exact f.not_le_of_eq this.symm (by simp) (.next_min (hx.2.trans' (by simp)))
+
+/-- Every element of `S \ (C ∩ level n)` must be mapped into `C ∩ level (n - 1)`.  -/
```
Comment (adomani) [inline Counterexamples/AharoniKorman.lean:1102]:
```suggestion
/-- Every element of `S \ (C ∩ level n)` must be mapped into `C ∩ level (n - 1)`. -/
```
The linter is complaining about this space!

**Comment by b-mehta** [comment]
bors merge
